US04070362
d. 5-Amino-4-butylamino-6-(2-methylpropyl)amino-2-methylnicotinic acid ethyl ester
17.6 g. of butylamino-6-(2-methylpropyl)amino-2-methyl-5-nitronicotinic acid ethyl ester (0.05 mol.) are dissolved in 100 ml. of butyl alcohol. 200 mg. of palladium on charcoal are added and the mixture is hydrogenated at 80° until the theoretical amount of hydrogen has been absorbed. The catalyst is filtered off and the mixture evaporated to dryness. The resulting oil, 5-amino-4-butylamino-6-(2-methylpropyl)amino-2-methylnicotinic acid ethyl ester, is used without further purification.

reactant | butylamino-6-(2-methylpropyl)amino-2-methyl-5-nitronicotinic acid ethyl ester | 0.05 mol | C(C)OC(C1=C(N=C(C(=C1NCCCC)[N+](=O)[O-])NCC(C)C)C)=O | C17H28N4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | butyl alcohol | C(CCC)O | C4H10O
product | 5-Amino-4-butylamino-6-(2-methylpropyl)amino-2-methylnicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C(=C1NCCCC)N)NCC(C)C)C)=O | C17H30N4O2
